US09315458B2
A) methyl 2-fluoro-4-(1H-pyrazol-1-yl)benzoate
To a solution of (3-fluoro-4-(methoxycarbonyl)phenyl)boronic acid (2.40 g) and 1H-pyrazole (0.99 g) in methanol (54.0 mL) was added copper(I) oxide (0.10 g), and the mixture was stirred overnight at 50° C. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (0.89 g).

reactant | (3-fluoro-4-(methoxycarbonyl)phenyl)boronic acid | 2.40 g | FC=1C=C(C=CC1C(=O)OC)B(O)O | C8H8BFO4
reactant | 1H-pyrazole | 0.99 g | N1N=CC=C1 | C3H4N2
solvent | methanol | 54.0 mL | CO | CH4O
catalyst | copper(I) oxide | 0.10 g | [Cu-]=O
product | methyl 2-fluoro-4-(1H-pyrazol-1-yl)benzoate | 0.89 g | FC1=C(C(=O)OC)C=CC(=C1)N1N=CC=C1 | C11H9FN2O2
